US07846959B2
A solution of 3-{3-amino-4-[(1,1-dimethylethyl)amino]phenyl}-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (347 mg, 0.862 mmol) and cyanogen bromide (100 mg, 0.948 mmol) in anhydrous ethanol (10 mL) was heated to reflux for 6 h, at which time it was cooled to room temperature and concentrated in vacuo. The residue was taken up in ethyl acetate (200 mL) and washed with saturated aqueous sodium bicarbonate and brine then dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by reverse phase HPLC to afford 3-[2-amino-1-(1,1-dimethylethyl)-1H-benzimidazol-5-yl]-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (2.7 mg). 1H NMR (400 MHz, d6-DMSO): 7.76 (d, 1H), 7.61 (d, 1H), 7.56-7.53 (m, 2H), 7.32 (br s, 1H), 7.30 (d, 1H), 7.09-7.07 (m, 5H), 6.92 (d, 1H), 4.41 (d, 1H), 4.22 (d, 1H), 1.73 (s, 9H); MS (EI) for C26H26N4O2: 427 (MH+).

reactant | 3-{3-amino-4-[(1,1-dimethylethyl)amino]phenyl}-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 0.862 mmol, 347 mg | NC=1C=C(C=CC1NC(C)(C)C)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)O | C25H27N3O2
reactant | cyanogen bromide | 0.948 mmol, 100 mg | N#CBr | CBrN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[2-amino-1-(1,1-dimethylethyl)-1H-benzimidazol-5-yl]-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 2.7 mg | NC1=NC2=C(N1C(C)(C)C)C=CC(=C2)C2(N(C(C1=CC=CC=C21)=O)CC2=CC=CC=C2)O | C26H26N4O2
